US05474923
Nocardia autotrophica N-102 in the same BG medium (100 ml/500 ml-Erlenmeyer flask) as used in Example 1 was cultured at 28° C. under the aerobic conditions for 48 hours. To the culture medium were added 10 ml of a 5% PMCD solution (0.01 M phosphate buffer, pH 7.0) and a solution of 0.1% 1α-hydroxyvitamin D3 in 1 ml of ethanol (in the amount of 140 mol of PMCD relative to 1 mol of 1α-hydroxytvitamin D3). After cultivation for a further 2 hours, methylene chloride was added to the flask, and analysis was carried out according to the method as described in Example 3. The peak fraction having a retention time of 12 minutes was collected, concentrated at 40° C. or below under reduced pressure and applied to HPLC on Zorbax ODS column (4.6 mm×25 cm, made by Du Pont Co., USA) with water-methanol (1:9) as a mobile phase at a flow rate of 1.0 ml/min. After elution, the peak fraction having a retention time of 5.6 minutes was collected and concentrated to dryness at 40° C. or below under reduced pressure with a nitrogen gas replacement to give 650 μg (65% of the conversion ratio from the material) of 1α,25-dihydroxyvitamin D3. On the other hand, following the same procedure as above but without PMCD, the amount of 25-hydroxyvitamin D3 obtained was 350 μg/ml (35% of the conversion ratio from the material).

reactant | N-102 | CCN(CC)C1=CC2=C(C=C1)C3(C4=CC=CC=C4C(=O)O3)C5=CC(=C(C=C5O2)C)NC6=CC=CC=C6 | C31H28N2O3
reactant | phosphate | 0.01 M | P(=O)([O-])([O-])[O-]
reactant | 1α-hydroxyvitamin D3 | C[C@H](CCCC(C)C)[C@H]1CC[C@@H]\2[C@@]1(CCC/C2=C\C=C/3\C[C@H](C[C@@H](C3=C)O)O)C | C27H44O2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 1α,25-dihydroxyvitamin D3 | C[C@H](CCCC(C)(C)O)[C@H]1CC[C@@H]\2[C@@]1(CCC/C2=C\C=C/3\C[C@H](C[C@@H](C3=C)O)O)C | C27H44O3
